US06951864B2
Ethyl-{6-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidin-4-yl}-amine
A mixture of 6-chloro-4-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine (60 mg, 0.18 mmol) and ethylamine (2M in THF, 2 mL) is heated at 70° C. in a sealed tube overnight. Solvent is removed. Water (10 mL) and ethyl acetate (15 mL) are added. The layers are separated—the aqueous layer is extracted with ethyl acetate (2×20 mL) and the organic layers are combined. On drying, the solvent is removed in vacuo. Preparative TLC separation gives the title compound. LC-MS (M+1) 341.2 (retention time: 1.00 min).

reactant | 6-chloro-4-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine | 0.18 mmol, 60 mg | ClC1=C(C(=NC=N1)CN1C(=NC=C1)C1=NC(=CC=C1)F)CCC | C16H15ClFN5
reactant | ethylamine | 2M, 2 mL | C(C)N | C2H7N
product | Ethyl-{6-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidin-4-yl}-amine | C(C)NC1=NC=NC(=C1CCC)CN1C(=NC=C1)C1=NC(=CC=C1)F | C18H21FN6
